US09416141B2
Step 1: 1,4-Dioxa-9-azadispiro[4.2.4.2]tetradecan-10-one (P2)
A stirred mixture of 1-azaspiro[4.5]decane-2,8-dione (P1, 2.00 g, 12.0 mmol), ethylene glycol (2.96 g, 47.7 mmol), and 4-methylbenzenesulfonic acid (100 mg, 0.735 mmol) in toluene (100 mL) was refluxed for 20 h with Dean-Stark apparatus to remove water. After this time, the reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting residue was mixed with saturated aqueous sodium bicarbonate (100 mL) and the resulting aqueous mixture was extracted with 5% methanol/ethyl acetate (4×150 mL). The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford compound P2 as an off-white solid (2.41 g, 95%): 1H NMR (300 MHz, DMSO-d6) δ 5.82 (bs, 1H), 3.95 (s, 4H), 2.41 (t, J=8.0 Hz, 2H), 1.99 (t, J=8.0 Hz, 2H), 1.80-1.65 (m, 8H). MS (M+H) 212.

reactant | 1-azaspiro[4.5]decane-2,8-dione | 12.0 mmol, 2.00 g | N1C(CCC12CCC(CC2)=O)=O | C9H13NO2
reactant | ethylene glycol | 47.7 mmol, 2.96 g | C(CO)O | C2H6O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-methylbenzenesulfonic acid | 0.735 mmol, 100 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
product | 1,4-Dioxa-9-azadispiro[4.2.4.2]tetradecan-10-one | 2.41 g, 95% | O1CCOC12CCC1(NC(CC1)=O)CC2 | C11H17NO3
